US07943613B2
In nitrogen atmosphere, bis(benzonitrile)palladium(II) chloride (14.6 mg, 0.038 mmol), copper(I) iodide (12.1 mg, 0.064 mmol) and 0.15 M solution of tri(tert-butyl)phosphine in cyclohexane (0.60 mL, 0.090 mmol) were added to a degassed solution of methyl (E)-[4-[3-(4-bromophenyl)-3-(4-chlorophenyl)allyloxy]-2-methylphenoxy]acetate (383 mg, 0.763 mmol), 4-ethynyltoluene (115 mg, 0.990 mmol) and diisopropyl amine (0.50 mL, 3.57 mmol) in dry tetrahydrofuran (6 mL). In atmosphere of nitrogen, the reaction mixture was stirred at 60° C. for 4 h, cooled down and evaporated in vacuo. The residue was purified by flash column chromatography (silica gel Fluka 60, hexanes/ethyl acetate 12:1) yielding methyl (Z)-[4-[3-(4-chlorophenyl)-3-[4-(4-methylphenylethynyl)phenyl]allyloxy]-2-methylphenoxy]acetate as brownish oil.

reactant | tri(tert-butyl)phosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cyclohexane | 0.090 mmol, 0.60 mL | C1CCCCC1 | C6H12
reactant | methyl (E)-[4-[3-(4-bromophenyl)-3-(4-chlorophenyl)allyloxy]-2-methylphenoxy]acetate | 0.763 mmol, 383 mg | BrC1=CC=C(C=C1)/C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)/C1=CC=C(C=C1)Cl | C25H22BrClO4
reactant | 4-ethynyltoluene | 0.990 mmol, 115 mg | C(#C)C1=CC=C(C=C1)C | C9H8
reactant | diisopropyl amine | 3.57 mmol, 0.50 mL | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | bis(benzonitrile)palladium(II) chloride | 0.038 mmol, 14.6 mg | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | copper(I) iodide | 0.064 mmol, 12.1 mg | [Cu]I
product | methyl (Z)-[4-[3-(4-chlorophenyl)-3-[4-(4-methylphenylethynyl)phenyl]allyloxy]-2-methylphenoxy]acetate | ClC1=CC=C(C=C1)\C(=C/COC1=CC(=C(OCC(=O)OC)C=C1)C)\C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C | C34H29ClO4
